US07994185B2
Step A: N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step A using N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide (1.2 g, 2.5 mmol), NBS (0.45 g, 2.5 mmol) and cyclobutanecarbothioamide (0.29 g, 2.5 mmol) the title compound was obtained as a white solid (0.75 g, 1.6 mmol, 54% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.92-10.69 (m, 1H), 8.32-8.85 (m, 1H), 7.83-7.57 (m, 1H), 7.59-7.31 (m, 3H), 7.33-7.07 (m, 2H), 6.49 (d, J=5.3 Hz, 1H), 3.89 (quin, J=8.5 Hz, 1H), 2.67-2.14 (m, 4H), 2.14-1.79 (m, 2H). MS (ESI): 553 [M+H]+.

reactant | N-{2-chloro-3-[(E)-2-(2-chloro-4-pyrimidinyl)-1-hydroxyethenyl]phenyl}-2,6-difluorobenzenesulfonamide | 2.5 mmol, 1.2 g | ClC1=C(C=CC=C1/C(=C\C1=NC(=NC=C1)Cl)/O)NS(=O)(=O)C1=C(C=CC=C1F)F | C18H11Cl2F2N3O3S
reactant | NBS | 2.5 mmol, 0.45 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | cyclobutanecarbothioamide | 2.5 mmol, 0.29 g | C1(CCC1)C(N)=S | C5H9NS
product | N-{2-Chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-cyclobutyl-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C1CCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H16Cl2F2N4O2S2
